US06951879B2
In analogy to example 2.1, 3-Methyl-benzo[d]isothiazol-6-ol and 1,3-dibromobutane were converted to yield 6-(4-Bromo-butoxy)-3-methyl-benzo[d]isothiazole as brown oil, MS: 300 (MH+, 1 Br).

reactant | 3-Methyl-benzo[d]isothiazol-6-ol | CC1=NSC2=C1C=CC(=C2)O | C8H7NOS
reactant | 1,3-dibromobutane | BrCCC(C)Br | C4H8Br2
product | 6-(4-Bromo-butoxy)-3-methyl-benzo[d]isothiazole | BrCCCCOC1=CC2=C(C(=NS2)C)C=C1 | C12H14BrNOS
